US07629461B2
Preparation of N-Formyl Valacyclovir
A 100 ml round bottom flask equipped with magnetic stir bar is charged with 7.25 gr Valacyclovir (20 mmol), 1.97 gr ammonium formate (31.2 mmol), NMP (N-Methyl-pyrrolidone) (15 ml) is added and stirring is started. The resulting mixture is placed in an oil bath that is heated to 125° C. for 2 hrs. The mixture is removed from the oil bath, allowed to cool to room temperature, and the solvent is removed under reduced pressure using high vac. pump. The residue is crystallized from 150 ml boiling water to give 6.0 gr at the purity of 80%.

reactant | Valacyclovir | 20 mmol, 7.25 gr | CC(C)[C@@H](C(=O)OCCOCN1C=NC2=C1NC(=NC2=O)N)N | C13H20N6O4
reactant | ammonium formate | 31.2 mmol, 1.97 gr | C(=O)[O-].[NH4+]
solvent | NMP | 15 ml | CN1C(CCC1)=O | C5H9NO
product | N-Formyl Valacyclovir | CC(C)[C@@H](C(=O)OCCOCN1C=NC2=C1NC(=NC2=O)N)NC=O | C14H20N6O5
